US07576115B2
Synthesis of 5-methoxycarbonyl-2-thiophenecarboxylic acid
Thiophene-2,5-dicarboxylic acid (1.72 g, 10 mmol) and sodium carbonate (3.18 g, 30 mmol) suspended in dimethylformamide (25 mL) were stirred with methyl iodide (623 μL) at room temperature overnight. The sodium salt of the desired product was extracted with water, and 12 M hydrochloric acid was added to the combined aqueous layer. The desired product was extracted with ethyl acetate, and the combined organic layer was washed with saturated aqueous ammonium chloride, dried over anhydrous magnesium sulfate and purified by silica gel column chromatography to give 0.49 g of the desired product as a colorless solid (yield 28%).

reactant | Thiophene-2,5-dicarboxylic acid | 10 mmol, 1.72 g | S1C(=CC=C1C(=O)O)C(=O)O | C6H4O4S
reactant | sodium carbonate | 30 mmol, 3.18 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl iodide | 623 μL | CI | CH3I
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 5-methoxycarbonyl-2-thiophenecarboxylic acid | 0.49 g, yield 28% | COC(=O)C1=CC=C(S1)C(=O)O | C7H6O4S
